US05422358
(B) Preparation of 3-(R)-(-)-(1-cyano-1,1-diphenylmethyl)-1-tosylpiperidine
Diphenylacetonitrile (13.5 g) was added to a stirred suspension of sodium hydride (3.2 g of a 60% suspension in mineral oil) in anhydrous toluene (250 ml) and the mixture was heated under reflux for 2 hours. On cooling to room temperature, 1-tosyl-3-(R)-(+)-tosyloxypiperidine (23 g) was added in portions and the mixture heated under reflux for 4 hours. The mixture was diluted with toluene (200 ml) and washed with 10% sodium hydroxide (2×100 ml) and brine (100 ml) then dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with toluene containing ethyl acetate (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was crystallised from ethanol to give the title compound, yield 16 g, m.p. 148°-150° C., [α]D25 -94.4° (c 1.0, CH2Cl2).

reactant | Diphenylacetonitrile | 13.5 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | sodium hydride | [H-].[Na+]
reactant | 1-tosyl-3-(R)-(+)-tosyloxypiperidine | 23 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C[C@@H](CCC1)OS(=O)(=O)C1=CC=C(C)C=C1 | C19H23NO5S2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(R)-(-)-(1-cyano-1,1-diphenylmethyl)-1-tosylpiperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)S(=O)(=O)C1=CC=C(C)C=C1 | C26H26N2O2S
